US04723002
(E) 4,5-Bis(phenylmethoxy)-2-pyridinecarboxylic acid
To a solution of 4,5-bis(phenylmethoxy)-2-pyridinecarboxylic acid, phenylmethyl ester (1.60 g, 3.76 mmole) in 15 ml of tetrahydrofuran and 2.2 ml of water was added 4 ml of 1N aqueous potassium hydroxide. The mixture was stirred at room temperature overnight. Water (15 ml) was added and 1N hydrochloric acid was added slowly with stirring while monitoring the pH. The pH of the mixture fell steadily to ca. 6.2 whereupon a large amount of solid began to separate and no further decrease in the pH was noted. Continued addition of hydrochloric acid eventually effected a sudden drop in pH to 3.2 and the addition was stopped. The solid was filtered and washed well with water, then ether, and dried in vacuo to afford 1.197 g of the title compound as a white waxy solid.

reactant | 4,5-bis(phenylmethoxy)-2-pyridinecarboxylic acid, phenylmethyl ester | 3.76 mmole, 1.60 g | C1(=CC=CC=C1)COC1=CC(=NC=C1OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C27H23NO4
reactant | potassium hydroxide | 1N, 4 ml | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 2.2 ml | O | H2O
solvent | Water | 15 ml | O | H2O
product | 4,5-Bis(phenylmethoxy)-2-pyridinecarboxylic acid | 1.197 g | C1(=CC=CC=C1)COC1=CC(=NC=C1OCC1=CC=CC=C1)C(=O)O | C20H17NO4
